US08058263B2
1.1. (S)-3-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester
Di-tert-butyl-dicarbonate (27.5 g) was added portionwise to a solution of (S)-3-hydroxypyrrolidine (10 g) and NEt3 (32 ml) in DCM (240 mL). The reaction mixture was stirred overnight at RT. Water was added and the org. phase was separated. It was washed with sat. aq. NH4Cl, sat. aq. NaHCO3 and brine. The org. phase was dried (Na2SO4) and evaporated off to afford the desired compound (21.4 g).

reactant | Di-tert-butyl-dicarbonate | 27.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (S)-3-hydroxypyrrolidine | 10 g | O[C@@H]1CNCC1 | C4H9NO
reactant | NEt3 | 32 ml | CCN(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | DCM | 240 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester | 21.4 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)O | C9H17NO3
